US06060477
Diethyl 4-n-propylpyridine-2,3-dicarboxylate
A solution of diethyl 3-chloro-2-oxosuccinate (137.4 g, 0.69 mol), hexen-2-a1 (72.5 g, 0.74 mol) and ammonium sulphamate (190.2 g, 1.66 mol) in ethanol (450 ml) was stirred under reflux for 36 hours and then filtered. The filtrate was evaporated under vacuum, the resulting residue dissolved in water (500 ml) and this solution extracted with ethyl acetate (6×500 ml). The combined organic extracts were dried (MgSO4) and evaporated under vacuum, then the resulting residue was chromatographed on silica gel (50 g), using an ethyl acetate in hexane elution gradient (0-20% ethyl acetate), to give the title compound as an orange oil (34.1 g, 21%). Rf 0.20 (ethyl acetate:hexane, 20:80).

reactant | diethyl 3-chloro-2-oxosuccinate | 0.69 mol, 137.4 g | ClC(C(C(=O)OCC)=O)C(=O)OCC | C8H11ClO5
reactant | hexen-2-a1 | 0.74 mol, 72.5 g | CC(C=CCC)=O | C6H10O
reactant | ammonium sulphamate | 1.66 mol, 190.2 g | S(N)([O-])(=O)=O.[NH4+]
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | Diethyl 4-n-propylpyridine-2,3-dicarboxylate | 34.1 g, 21% | C(CC)C1=C(C(=NC=C1)C(=O)OCC)C(=O)OCC | C14H19NO4
